US07375227B2
363B. 4-(2-Methoxy-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A three necked flask purged with nitrogen is charged with aqueous 2N Na2CO3 (1.4 mL), 1,2-dimethoxyethane (3.7 mL), 2-methoxyphenyl boronic acid (206 mg, 1.35 mmol), anhydrous lithium chloride (123 mg, 2.9 mmol), 4-trifluoromethanesulfonyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (321 mg, 0.96 mmol) and tetrakis(triphenylphosphine)palladium (56 mg, 0.048 mmol). The mixture is stirred at reflux for 2 h under nitrogen, cooled and concentrated under reduced pressure. The residue is partitioned between CH2Cl2 (10 mL), aqueous 2N Na2CO3 (10 mL), and concentrated NH4OH (1 mL). The aqueous layer is extracted twice with CH2Cl2. The combined organic layers are dried (MgSO4), filtered and concentrated to provide a crude oil. Flash chromatography (Hex/AcOEt/CH2Cl2: 5/1/1) provides the title compound.

reactant | Na2CO3 | 2N, 1.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-methoxyphenyl boronic acid | 1.35 mmol, 206 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | lithium chloride | 2.9 mmol, 123 mg | [Cl-].[Li+]
reactant | 4-trifluoromethanesulfonyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.96 mmol, 321 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)S(=O)(=O)C(F)(F)F | C11H16F3NO4S
catalyst | tetrakis(triphenylphosphine)palladium | 0.048 mmol, 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | AcOEt CH2Cl2 | CCOC(=O)C.C(Cl)Cl
solvent | 1,2-dimethoxyethane | 3.7 mL | COCCOC | C4H10O2
product | 4-(2-Methoxy-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(C=CC=C1)OC | C17H23NO3
